US08492392B2
2-(6-chloropyridin-3-yl)-4-{[(2S)-1-methoxypropan-2-yl]oxy}-N-(6-methylpyridin-3-yl)-7,8-dihydropyrido[4,3-d]pyrimidine-6(5H)-carboxamide (P-5)
TEA (0.315 ml, 2.258 mmol) was added to a suspension of 6-methylnicotinic acid (217 mg, 1.581 mmol) and diphenylphosphoryl azide (0.343 ml, 1.581 mmol) in toluene (35 mL). The mixture was stirred at room temperature for 1 h, then heated to reflux for 1 h, and then cooled to room temperature. A solution of 2-(6-chloropyridin-3-yl)-4-{[(2S)-1-methoxypropan-2-yl]oxy}-5,6,7,8-tetrahydropyrido-[4,3-d]pyrimidine (P-4, 504 mg, 1.505 mmol) and TEA (0.315 ml, 2.258 mmol) in DCM (10 mL) was added to the mixture and the stirring was continued at room temperature for 20 min. The mixture was partitioned between EtOAc (30 mL) and sat. aq. NaHCO3 (30 mL). The organic phase was washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The resulting residue was purified by gradient elution on silica gel 0 to 70% [10% MeOH in DCM] in DCM. The pale yellow amorphous free base was dissolved in 15 mL DCM and treated with 1 N HCl in diethyl ether (1.505 ml, 3.01 mmol). The resulting suspension was stirred at room temperature for 10 min and then concentrated in vacuo. The solids were suspended in diethyl (15 mL), stirred for 20 min, and then filtered through a scintered glass funnel. The isolated solid was dried under high vacuum to afford the title compound (528 mg, 69%) as an off-white solid. Data for P-5: 1H NMR (500 MHz, CDCl3) δ 9.35 (d, J=2.2 Hz, 1H), 8.61 (dd, J=8.3, 1.6 Hz, 1H), 8.39 (d, J=2.7 Hz, 1H), 7.89 (dd, J=8.3, 2.7 Hz, 1H), 7.41 (d, J=8.5 Hz, 1H), 7.12 (d, J=8.6 Hz, 1H), 6.81 (s, 1H), 5.69 (m, 1H), 4.58 (s, 2H), 3.87 (m, 2H), 3.69 (dd, J=10.5, 6.4 Hz, 1H), 3.60 (dd, 10.5, 3.7 Hz, 1H), 3.42 (s, 3H), 3.03 (t, J=5.6 Hz, 2H), 2.52 (s, 3H), 1.43 (d, J=6.34, Hz, 3H); HRMS m/z (M+H) 469.1753 found, 469.1749 required.

reactant | 6-methylnicotinic acid | 1.581 mmol, 217 mg | CC1=NC=C(C(=O)O)C=C1 | C7H7NO2
reactant | diphenylphosphoryl azide | 1.581 mmol, 0.343 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-(6-chloropyridin-3-yl)-4-{[(2S)-1-methoxypropan-2-yl]oxy}-5,6,7,8-tetrahydropyrido-[4,3-d]pyrimidine | 1.505 mmol, 504 mg | ClC1=CC=C(C=N1)C=1N=C(C2=C(N1)CCNC2)O[C@H](COC)C | C16H19ClN4O2
reactant | HCl | 1 N | Cl | ClH
reactant | diethyl ether | 3.01 mmol, 1.505 ml | C(C)OCC | C4H10O
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(6-chloropyridin-3-yl)-4-{[(2S)-1-methoxypropan-2-yl]oxy}-N-(6-methylpyridin-3-yl)-7,8-dihydropyrido[4,3-d]pyrimidine-6(5H)-carboxamide | 528 mg, 69% | ClC1=CC=C(C=N1)C=1N=C(C2=C(N1)CCN(C2)C(=O)NC=2C=NC(=CC2)C)O[C@H](COC)C | C23H25ClN6O3
